US09169246B2
To a solution of 7-(pyrid-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-(pyrid-2-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (60 mg, 0.14 mmol) in 1 mL of DCM is added a 4M solution of anhydrous hydrogen chloride in dioxane (350 μL, 1.40 mmol). After stirring for 1 hour at room temperature, the suspension is filtered and the solid is dried under vacuum to give 59 mg of 7-(pyrid-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one in the form of a beige-coloured powder (hydrochloride, 0.88 H2O; quantitative yield).

reactant | 7-(pyrid-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | N1=C(C=CC=C1)C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CNN3C3OCCCC3 | C22H21F3N4O2
reactant | 7-(pyrid-2-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.14 mmol, 60 mg | N1=C(C=CC=C1)C=1C=CC=2C=3C(C(N(C2C1)CC(F)(F)F)=O)=CN(N3)C3OCCCC3 | C22H19F3N4O2
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 1.40 mmol, 350 μL | O1CCOCC1 | C4H8O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 7-(pyrid-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 59 mg, quantitative yield | N1=C(C=CC=C1)C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | C17H11F3N4O
